US09357779B2
1-[2-(1-{2-[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]ethanethioyl}piperidin-4-yl)-1,3-thiazol-4-yl]-2-cyclohexylethanone (I-58)
At room temperature, 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide (194 mg) was added to a solution of 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(cyclohexylacetyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (200 mg) in toluene (2 ml). The reaction mixture was stirred at 60° C. for 2 hours. After removal of the solvent under reduced pressure, the residue was purified chromatographically. This gave 1-[2-(1-{2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]ethanethioyl}-piperidin-4-yl)-1,3-thiazol-4-yl]-2-cyclohexylethanone (101 mg, 49%).

reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide | 194 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | 2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(cyclohexylacetyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone | 200 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C(CC1CCCCC1)=O)F | C23H28F4N4O2S
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(1-{2-[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]ethanethioyl}piperidin-4-yl)-1,3-thiazol-4-yl]-2-cyclohexylethanone | FC(C1=NN(C(=C1)C(F)F)CC(=S)N1CCC(CC1)C=1SC=C(N1)C(CC1CCCCC1)=O)F | C23H28F4N4OS2
